US03975437
A 2.6N solution of methylamine in methylene chloride (250 cc.) is added at 0°C. and over the course of 30 minutes to a solution of 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride (10 g.) in methylene chloride (100 cc.). The reaction mixture is concentrated, and the residue taken up in distilled water (100 cc.) and benzene (300 cc.). The organic layer is decanted, dried over anhydrous sodium sulphate and evaporated at 60°C. under reduced pressure (20 mm.Hg). The product obtained is recrystallised from di-isopropyl ether (100 cc.) to give 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)-N-methylpropionamide (5.8 g.) melting at 140°C.

reactant | methylamine | CN | CH5N
reactant | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionyl chloride | 10 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)Cl)C)C=CC=C2 | C18H15ClO2
solvent | methylene chloride | 250 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
product | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)-N-methylpropionamide | 5.8 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)NC)C)C=CC=C2 | C19H19NO2
